US03951983
A solution consisting of 5.0 g. of 1-(2-carbamoylmethylphenoxy)-2,3-epoxypropane and 4.6 g. of 1-(2-methoxyphenyl)piperazine dissolved in 50 ml. of ethanol was allowed to stand at room temperature (~25°C.) for a period of approximately 16 hours. At the end of this time, the resultant precipitate was removed from the reaction mixture by means of suction filtration and subsequently recrystallized from ethyl acetate to give 1-(2-carbamoylmethylphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol as the pure free base compound, m.p. 120°-122°C.

reactant | 1-(2-carbamoylmethylphenoxy)-2,3-epoxypropane | C(N)(=O)CC1=C(OCC2CO2)C=CC=C1 | C11H13NO3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-carbamoylmethylphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol | C(N)(=O)CC1=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=CC=C1 | C22H29N3O4
